US06136823
Synthesis of Ethyl 7-Amino-8-bromo-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
Ethyl 7-azido-8-bromo-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate (650 mg) was dissolved in methanol (20 ml). An acetic acid suspension (3 ml) of 20% palladium hydroxide (100 mg) was added to this solution, and the mixture was stirred at room temperature for 3 hours in a hydrogen atmosphere. After palladium hydroxide was removed by filtration, the solvent was distilled off under reduced pressure. The residue was subjected to column chromatography on silica gel (eluent; chloroform) to obtain the title compound (423 mg) as a liver-colored amorphous substance.

reactant | Ethyl 7-azido-8-bromo-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 650 mg | N(=[N+]=[N-])C1=C(C=C2C(C(=CN(C2=C1Br)C1=C(C=C(C(=C1)NC(=O)OC(C)(C)C)F)F)C(=O)OCC)=O)F | C23H19BrF3N5O5
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium hydroxide | 100 mg | [OH-].[Pd+2].[OH-]
product | Ethyl 7-Amino-8-bromo-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 423 mg | NC1=C(C=C2C(C(=CN(C2=C1Br)C1=C(C=C(C(=C1)NC(=O)OC(C)(C)C)F)F)C(=O)OCC)=O)F | C23H21BrF3N3O5
